US04179511
6-(2-[N,N-Diethylamidinothio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
To a stirred solution of 1.40 g (0.039 mole) of 6-(2-bromoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam in 25 ml of methylene chloride is added 0.54 ml (0.039 mole) of triethylamine, followed by 0.52 g (0.039 mole) of N,N-diethylthiourea. Stirring is continued for a further 45 minutes, and then the solvent is decanted from the oil which has separated. The oil is triturated with ether, giving a white solid, which is filtered off. The yield is 1.28 g (76% of theory) of 6-(2-[N,N-diethylamidinothio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam. The infrared spectrum (KBr disc) of the product shows absorption bands at 1780 cm-1 (β-lactam) and 1670 cm-1 (amide I). The NMR spectrum (DMSO-d6) shows absorption bands at 5.65 ppm (multiplet, C-5 and C-6 hydrogens), 5.15 ppm (singlet, C-3 hydrogen), 4.10 ppm (singlet, methylene hydrogens), 3.45 ppm (quartet, ethyl hydrogens), 1.60 ppm (singlet, C-2 methyl hydrogens), 1.10 ppm (triplet, ethyl hydrogens) and 1.00 ppm (singlet, C-2 methyl hydrogens).

reactant | 6-(2-bromoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.039 mole, 1.40 g | BrCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C10H13BrN6O2S
reactant | triethylamine | 0.039 mole, 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-diethylthiourea | 0.039 mole, 0.52 g | C(C)N(C(=S)N)CC | C5H12N2S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 6-(2-[N,N-Diethylamidinothio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | C(C)N(C(=N)SCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)CC | C15H24N8O2S2
